.include pmos_nmos_3p3_wrapper.spice
* Auto TB for barthnauta_cell
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from barthnauta.ext - technology: gf180mcuC

.subckt barthnauta_cell inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp
X0 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X1 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X4 d2 inr out vss nmos_3p3 w=1.8u l=0.6u
X5 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X6 d1 inl vss vss nmos_3p3 w=1.8u l=0.6u
X7 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X8 vss inr d2 vss nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 vss nmos_3p3 w=1.8u l=0.6u
X10 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
X11 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
C0 om inl 0.18fF
C1 bp inl 0.32fF
C2 inr out 0.19fF
C3 vreg out 0.78fF
C4 om inr 0.18fF
C5 bp inr 0.32fF
C6 op inl 0.20fF
C7 bp vreg 0.92fF
C8 inl inr 0.55fF
C9 op inr 0.20fF
C10 gp vreg 1.98fF
C11 vdd gp 0.66fF
C12 om out 0.11fF
C13 bp out 0.15fF
C14 vdd vreg 1.41fF
C15 inl out 0.17fF
C16 op out 0.11fF
C17 om vss 1.14fF
C18 ip vss 0.79fF
C19 im vss 0.79fF
C20 op vss 1.13fF
C21 out vss 1.53fF
C22 inr vss 2.28fF
C23 inl vss 2.29fF
C24 vreg vss 0.72fF
C25 gp vss 1.56fF
C26 bp vss 6.58fF
C27 vdd vss 6.08fF
C28 m3_n7200_1320# vss 0.79fF
C29 d2 vss 0.18fF
C30 d1 vss 0.18fF
.ends

.subckt barthnauta_edge gp vreg op x im ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 vreg bp 0.23fF
C1 vreg hi 0.11fF
C2 vreg gp 1.01fF
C3 bp hi 0.28fF
C4 vreg vdd 0.22fF
C5 vdd hih 0.45fF
C6 om gnd 0.85fF
C7 ip gnd 0.58fF
C8 x gnd 0.58fF
C9 im gnd 0.58fF
C10 op gnd 0.84fF
C11 vreg gnd 0.44fF
C12 bp gnd 4.35fF
C13 vdd gnd 4.01fF
C14 lo gnd 0.84fF
C15 hi gnd 0.46fF
C16 hih gnd 0.46fF
.ends

.subckt barthnauta ip im op om vdd gp bp vreg gnd
Xbarthnauta_cell_9 x ip om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_edge_0 gp vreg op x im ip om vdd gnd bp barthnauta_edge
Xbarthnauta_edge_1 gp vreg op x im ip om vdd gnd bp barthnauta_edge
Xbarthnauta_cell_0 im x op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_10 ip x x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_1 x ip om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_11 x im x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_2 ip x x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_12 op om op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_13 om op om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_3 x im x gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_14 ip x om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_4 op om op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_15 x im op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_5 om op om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_6 ip x om gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_8 im x op gp vreg op im ip om gnd vdd x bp barthnauta_cell
Xbarthnauta_cell_7 x im op gp vreg op im ip om gnd vdd x bp barthnauta_cell
C0 im ip 0.11fF
C1 gnd om -0.40fF
C2 gnd bp -1.56fF
C3 gnd op -0.11fF
C4 gnd im -0.29fF
C5 vdd vreg 0.39fF
C6 gp vreg -1.15fF
C7 gnd vreg 0.26fF
C8 x om 0.65fF
C9 op x 0.80fF
C10 vdd gp 0.22fF
C11 im x 0.20fF
C12 op om 0.49fF
C13 gnd vdd -0.98fF
C14 op bp 0.11fF
C15 gnd ip -0.67fF
C16 im om 0.42fF
C17 op im 1.16fF
C18 x vreg 0.17fF
C19 vreg om 0.14fF
C20 op vreg 0.14fF
C21 x ip 0.38fF
C22 ip om 0.41fF
C23 op ip 0.93fF
C24 gnd 0 -24.44fF
C25 vdd 0 91.18fF
C26 barthnauta_cell_7/d2 0 0.18fF $ **FLOATING
C27 barthnauta_cell_7/d1 0 0.18fF $ **FLOATING
C28 barthnauta_cell_8/d2 0 0.18fF $ **FLOATING
C29 barthnauta_cell_8/d1 0 0.18fF $ **FLOATING
C30 barthnauta_cell_6/d2 0 0.18fF $ **FLOATING
C31 barthnauta_cell_6/d1 0 0.18fF $ **FLOATING
C32 barthnauta_cell_5/d2 0 0.18fF $ **FLOATING
C33 barthnauta_cell_5/d1 0 0.18fF $ **FLOATING
C34 barthnauta_cell_15/d2 0 0.18fF $ **FLOATING
C35 barthnauta_cell_15/d1 0 0.18fF $ **FLOATING
C36 barthnauta_cell_4/d2 0 0.18fF $ **FLOATING
C37 barthnauta_cell_4/d1 0 0.18fF $ **FLOATING
C38 barthnauta_cell_14/d2 0 0.18fF $ **FLOATING
C39 barthnauta_cell_14/d1 0 0.18fF $ **FLOATING
C40 barthnauta_cell_3/d2 0 0.18fF $ **FLOATING
C41 barthnauta_cell_3/d1 0 0.18fF $ **FLOATING
C42 barthnauta_cell_13/d2 0 0.18fF $ **FLOATING
C43 barthnauta_cell_13/d1 0 0.18fF $ **FLOATING
C44 barthnauta_cell_12/d2 0 0.18fF $ **FLOATING
C45 barthnauta_cell_12/d1 0 0.18fF $ **FLOATING
C46 barthnauta_cell_2/d2 0 0.18fF $ **FLOATING
C47 barthnauta_cell_2/d1 0 0.18fF $ **FLOATING
C48 barthnauta_cell_11/d2 0 0.18fF $ **FLOATING
C49 barthnauta_cell_11/d1 0 0.18fF $ **FLOATING
C50 barthnauta_cell_1/d2 0 0.18fF $ **FLOATING
C51 barthnauta_cell_1/d1 0 0.18fF $ **FLOATING
C52 barthnauta_cell_10/d2 0 0.18fF $ **FLOATING
C53 barthnauta_cell_10/d1 0 0.18fF $ **FLOATING
C54 om 0 35.48fF
C55 ip 0 26.06fF
C56 im 0 25.92fF
C57 op 0 34.80fF
C58 gp 0 22.45fF
C59 bp 0 103.69fF
C60 x 0 43.03fF
C61 barthnauta_cell_0/d2 0 0.18fF $ **FLOATING
C62 barthnauta_cell_0/d1 0 0.18fF $ **FLOATING
C63 barthnauta_edge_1/lo 0 0.84fF $ **FLOATING
C64 barthnauta_edge_1/hi 0 0.46fF $ **FLOATING
C65 barthnauta_edge_1/hih 0 0.46fF $ **FLOATING
C66 vreg 0 4.17fF
C67 barthnauta_edge_0/lo 0 0.84fF $ **FLOATING
C68 barthnauta_edge_0/hi 0 0.46fF $ **FLOATING
C69 barthnauta_edge_0/hih 0 0.46fF $ **FLOATING
C70 barthnauta_cell_9/d2 0 0.18fF $ **FLOATING
C71 barthnauta_cell_9/d1 0 0.18fF $ **FLOATING
.ends



Vdd vdd 0 DC 1.8
Vss vss 0 DC 0
X1 inl inr out gp vreg op im ip om vss vdd m3_n7200_1320# bp barthnauta_cell
.op
.control
op
.endc
.end
