* inverter testbench

.include "../../../gf180mcuA/libs.tech/ngspice/design.ngspice"
.lib "../../../gf180mcuA/libs.tech/ngspice/sm141064.ngspice" typical

.include "../magic/inv.spice"

vdd vdd 0 3.3
vss vss 0 0

vin in vss 0

x0 in out vdd vss inv


Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.option gmin=1e-12
.control
	dc vin 0 3.3 1m
	plot in out
	plot db(abs(deriv(out))) vs out
.endc
