* Include GF180MCU device models
.include "../../../gf180mcuC/libs.tech/ngspice/design.ngspice"
.lib "../../../gf180mcuC/libs.tech/ngspice/sm141064.ngspice" typical
.lib "../../../gf180mcuC/libs.tech/ngspice/sm141064.ngspice" mimcap_typical

.include "../../inv/ngspice/inv.spice"
.include "../magic/nautanauta.spice"

.param pVDD = 5.0
.param pIB  = 45.0u

VDD vdd 0 dc {pVDD}
VSS vss 0 0
ECM cm vss vreg vss 0.5

vin in cm dc 0 ac 1
eip ip cm in cm  0.5
eim im cm in cm -0.5

ib vdd ib {pIB}
xb ib      vdd gp bp vreg vss inv_bias
xq q   q   vdd gp bp vreg vss inv0

vd0 vdd vd0 0
x0 xp xm op om vd0 gp bp vreg vss nautanauta
lp xp om 1T
lm xm op 1T
cip ip xp 1T
cim im xm 1T
cp op cm 10p
cm om cm 10p


.option gmin=1e-15
.control
	op
	ac dec 10 1k 1T

	let av = db(ac1.op-ac1.om)	
	let ph = cphase(ac1.op-ac1.om)*180/pi

	let id = op1.i(vd0)

	plot av
	plot ph

	meas ac gbw when av=0

	print id
	
	meas ac pm find ph at=gbw
	
	meas ac av_1khz find av at=1k
	
	let fom = 100*gbw*10p/id
	
	print fom
	
*	wrdata ../data/ac_df_av.txt av0 av1 av2 av3 av4 av5 av6 av7
*	wrdata ../data/ac_df_ph.txt ph0 ph1 ph2 ph3 ph4 ph5 ph6 ph7
		
.endc

.end
