* Amplifier open-loop DC testbench

* Include GF180MCU device models
.include "../../../gf180mcuC/libs.tech/ngspice/design.ngspice"
.lib "../../../gf180mcuC/libs.tech/ngspice/sm141064.ngspice" typical

.include "inv.spice"

.param pVDD = 5.0
.param pIB  = 20.0u

VDD vdd 0 dc {pVDD}
VSS vss 0 0
ECM cm vss vreg vss 0.5

vin in cm dc 0 ac 1

ib vdd ib {pIB}
xb ib      vdd gp bp  vreg vss inv_bias
x0 in  out vdd gp bp  vreg vss inv0

.param dx = 1.2
.dc vin {-dx} {dx} {dx/1001}
.option gmin = 1e-15
.control
	run
	
	let vi = in
	let vo = out
	let av = db(abs(deriv(vo)))
	plot vo vs vi xlimit 0 2.4 ylimit 0 2.4
	plot av vs vo xlimit 0 2.4 ylimit -20 60
	
	wrdata ../data/inv_ol_vo.txt vi vo
	wrdata ../data/inv_ol_av.txt av vo
	
.endc

.end
